US07700598B2
21a 2-acetylamino-3-(3,4-dichloro-phenyl)-acrylic acid
A mixture of 20.0 g (112 mmol) 3,4-dichlorobenzaldehyde, 19.7 g (168 mmol) N-acetylglycine and 13.8 g (168 mmol) NaOAc in 80 mL acetic anhydride were heated to 120° C. (oil bath temperature) for 5 h. After the reaction had ended the reaction mixture was cooled using an ice bath and then combined slowly with 60 mL water (slightly exothermic reaction). The reaction mixture was heated to 80° C. for a further 1.5 h, cooled somewhat, then added to a mixture of 400 mL water and 200 mL toluene and stirred overnight at RT. The precipitate was suction filtered, washed with toluene and water, then combined with diethyl ether and suction filtered.

reactant | 3,4-dichlorobenzaldehyde | 112 mmol, 20.0 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | N-acetylglycine | 168 mmol, 19.7 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | NaOAc | 168 mmol, 13.8 g | CC(=O)[O-].[Na+]
reactant | water | 60 mL | O | H2O
reactant | water | 400 mL | O | H2O
solvent | acetic anhydride | 80 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-acetylamino-3-(3,4-dichloro-phenyl)-acrylic acid | C(C)(=O)NC(C(=O)O)=CC1=CC(=C(C=C1)Cl)Cl | C11H9Cl2NO3
